US07365095B2
A solution ((R)-8-(2,5-dichlorophenyl)-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate (410 mg, 0.85 mmol) and sodium azide (280 mg, 4.3 mmol) in anhydrous DMF (20 mL) was heated to 90° C. under nitrogen for 20 hours. The cooled reaction mixture was quenched by the addition of water (30 mL) and the resulting suspension stirred vigorously for 10 minutes. The mixture was then partitioned between ethyl acetate (100 mL) and water (100 mL), the organic phase separated, washed with water (100 mL) and saturated brine (100 mL), dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Chromatography with 0–30% ethyl acetate in hexanes afforded 240 mg (83%) of (2R)-2-azidomethyl-8-(2,5-dichloro-phenyl)-6-fluoro-chroman as a colorless oil. MS (APPI) m/z 322 ([M−N2+H]+).

reactant | ((R)-8-(2,5-dichlorophenyl)-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 0.85 mmol, 410 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=C(C=C2C=C1)F)C1=C(C=CC(=C1)Cl)Cl | C23H17Cl2FO4S
reactant | sodium azide | 4.3 mmol, 280 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2R)-2-azidomethyl-8-(2,5-dichloro-phenyl)-6-fluoro-chroman | 240 mg, 83% | N(=[N+]=[N-])C[C@@H]1OC2=C(C=C(C=C2CC1)F)C1=C(C=CC(=C1)Cl)Cl | C16H12Cl2FN3O
